US04826528
2-Amino-4-methylmercaptopyrido[2,3-d]pyrimidine
2-Amino-4-mercaptopyrido[2,3-d]pyrimidine (1.78 gm; 10 mmol) is dissolved in aqueous potassium hydroxide solution (1.0 gm of KOH in 25 ml of H2O), and 1 ml of methyl iodide is added at ambient temperature with stirring. After 30 minutes' reaction, the precipitated substance is subjected to suction filtration, triturated with a small amount of ethanol, and dried.

reactant | 2-Amino-4-mercaptopyrido[2,3-d]pyrimidine | 10 mmol, 1.78 gm | NC=1N=C(C2=C(N1)N=CC=C2)S | C7H6N4S
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | potassium hydroxide | 25 ml, 1.0 gm | [OH-].[K+]
product | 2-Amino-4-methylmercaptopyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC=C2)SC | C8H8N4S
